US05194603
1500 ml of a solution of 20 g of 2,6-dimethoxybenzaldehyde in propionic acid was heated at 100° C. with stirring, 8.05 g of pyrrole was added and the mixture was continuously heated with stirring for 7 hours. After cooling to room temperature, the mixture solution was left overnight. The reaction solution was filtered through a glass filter, and the filtrate was washed with cooled methanol and purified with a silica gel column (dichloromethane) to obtain 5,10,15,20-tetra(2',6'-dimethoxyphenyl)porphyrin.

reactant | 2,6-dimethoxybenzaldehyde | 20 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | pyrrole | 8.05 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-tetra(2',6'-dimethoxyphenyl)porphyrin | COC1=C(C(=CC=C1)OC)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4OC)OC)N3)C3=C(C=CC=C3OC)OC)=N2)C2=C(C=CC=C2OC)OC | C52H46N4O8
